US06110922
(2-Bromophenyl)[2-chloro-4-(E-((4-hydroxypiperidin-1-yl)carbonyl) ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3-chloro-4-fluoro-benzadehyde, and 6-amino-1-hexanol with 4-hydroxypiperidine. 1H NMR (DMSO-d6, 300 MHz) δ 8.08 (d, J=1.7 Hz, 1H), 7.80 (dd, J=8.0, 1.5 Hz, 1H), 7.63 (dd, J=8.3, 1.9 Hz, 1H), 7.44 (ap dd, J=7.5, 1.4 Hz, 2H), 7.40 (ap d, J=3.7 Hz 2H), 7.34 (dt, J=7.6, 1.8 Hz, 1H), 7.25 (dd, J=7.5,1.7 Hz 1H), 7.05 (d, J=8.1 Hz, 1H), 4.76 (br s, 1H), 4.01 (m, 2H), 3.72 (m, 1H), 3.12 (m, 1H), 1.75 (m, 2H), 1.32 (m, 2H). HRMS calculated for C20H19N1O2S1Br1Cl1 : 452.0087. Observed: 452.0076.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | (2-Bromophenyl)[2-chloro-4-(E-((4-hydroxypiperidin-1-yl)carbonyl) ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CCC(CC1)O)Cl | C20H19BrClNO2S
